US06528653B2
Ethyl 2-aminothiophene-3-acetate (100 mg, 0.54 mmol) was dissolved in dry tetrahydrofuran (5 ml) and treated at −78° C. with trimethylaluminium (2M in n-heptane, 0.59 mmol). The reaction mixture was allowed to warm slowly to room temperature over 4 hours, cooled to 0° C. and quenched with saturated aqueous ammonium chloride solution. The solution was extracted with ethyl acetate and the organic phase dried over magnesium sulfate, evaporated to dryness and the residue chromatographed on silica gel using hexane/ethyl acetate (2:1) as eluent to give 45 mg of 4,6-dihydrothieno[2,3-b]pyrrol-5-one as a brown solid. MS(ES): m/e 140 [M+H].

reactant | Ethyl 2-aminothiophene-3-acetate | 0.54 mmol, 100 mg | NC=1SC=CC1CC(=O)OCC | C8H11NO2S
reactant | trimethylaluminium | 0.59 mmol, 2M | C[Al](C)C
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4,6-dihydrothieno[2,3-b]pyrrol-5-one | 45 mg | S1C=CC2=C1NC(C2)=O | C6H5NOS
